US07683201B2
Step A: Preparation of 2,3-dihydro-8-methyl-3-(1-methylethyl)-4(1H)-quinazolinone
To a solution of 2-amino-3-methyl-N-(1-methylethyl)benzamide (0.5 g, 2.6 mmol) in ethanol (10 mL) was added paraformaldehyde (78 mg, 2.6 mmol) and p-toluenesulfonic acid (18 mg, 95 μmol) and the mixture was heated at reflux until it became clear (approximately 4 hours). The solvent was removed under reduced pressure to give the title compound (95% pure) which was used without further purification.

reactant | 2-amino-3-methyl-N-(1-methylethyl)benzamide | 2.6 mmol, 0.5 g | NC1=C(C(=O)NC(C)C)C=CC=C1C | C11H16N2O
reactant | paraformaldehyde | 2.6 mmol, 78 mg | C=O | CH2O
reactant | p-toluenesulfonic acid | 95 μmol, 18 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2,3-dihydro-8-methyl-3-(1-methylethyl)-4(1H)-quinazolinone | 95% | CC=1C=CC=C2C(N(CNC12)C(C)C)=O | C12H16N2O
